US05852011
4-[N,N-Bis(2-chloroethyl)amino]phenoxyacetic acid
A suspension of 1.99 g (6.50 mmol) of methyl 4-[N,N-bis(2-chloroethyl)amino]phenoxyacetate in 60 ml of concentrated hydrochloric acid was heated at 50° C. for 30 minutes. The suspension was washed with methylene chloride, neutralized with sodium hydrogencarbonate, and then extracted with methylene chloride. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then concentrated, whereby 1.23 g of the title compound were obtained as colorless crystals (yield: 65%).

reactant | methyl 4-[N,N-bis(2-chloroethyl)amino]phenoxyacetate | 6.50 mmol, 1.99 g | ClCCN(CCCl)C1=CC=C(OCC(=O)OC)C=C1 | C13H17Cl2NO3
solvent | hydrochloric acid | 60 ml | Cl | ClH
product | 4-[N,N-Bis(2-chloroethyl)amino]phenoxyacetic acid | 1.23 g | ClCCN(CCCl)C1=CC=C(OCC(=O)O)C=C1 | C12H15Cl2NO3
